US06107329
(S)-2-Amino-3-(4-hydroxy-phenyl)-N,N-dimethyl-propionamide hydrochloride
(S)-[1-Dimethylcarbamoyl-2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (5.7 g, 18.5 mmol) was dissolved in 4M HCl-dioxane (7 mL) at 0° C. The mixture was stirred at 25° C. for 3 hours, concentrated and the residue triturated with ether. Yield, 5.23 g; HPLC (60/40) 3.32 minutes (98%).

reactant | (S)-[1-Dimethylcarbamoyl-2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 18.5 mmol, 5.7 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)O)C(N(C)C)=O)=O | C16H24N2O4
reactant | HCl dioxane | 4M, 7 mL | Cl.O1CCOCC1
product | (S)-2-Amino-3-(4-hydroxy-phenyl)-N,N-dimethyl-propionamide hydrochloride | Cl.N[C@H](C(=O)N(C)C)CC1=CC=C(C=C1)O | InChI=1S/C11H16N2O2.ClH/c1-13(2)11(15)10(12)7-8-3-5-9(14)6-4-8;/h3-6,10,14H,7,12H2,1-2H3;1H/t10-;/m0./s1
